US07700640B2
3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzonitrile (1.00 equiv; 9.40 mmol; 3.00 g) was charged to a 100 ml round-bottomed flask (1 neck, condenser, magnetically stirred) with ethanol (515 mmol; 30.0 ml; 23.7 g). Water (138 mmol; 2.49 ml; 2.49 g), then sodium hydroxide (18.9M in water, 47.0 mmol; 2.49 ml; 3.75 g) was charged and the mixture heated to reflux (bath temperature 90° C.) for 4 hours. The mixture was cooled and solvent removed in vacuo affording a colourless solution (water not removed). The mixture was partitioned between water (50 ml) and MTBE (50 ml) and the layers separated (aqueous layer pH=14). The aqueous phase was acidified with HCl solution (2M, aq, 50 ml) and extracted with MTBE (50 ml). The organic layer was dried over MgSO4, filtered and the volatiles removed in vacuo affording 3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzoic acid as a colourless oil (3.15 g, 99%).

reactant | 3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzonitrile | 9.40 mmol, 3.00 g, 1.00 equiv | FC=1C=C(OC=2C=C(C#N)C=C(C2)OC(COC)C)C=C(C1)F | C17H15F2NO3
reactant | ethanol | 515 mmol, 30.0 ml, 23.7 g | C(C)O | C2H6O
reactant | Water | 138 mmol, 2.49 ml, 2.49 g | O | H2O
reactant | sodium hydroxide | 47.0 mmol, 18.9M, 2.49 ml, 3.75 g | [OH-].[Na+]
product | 3-(3,5-difluorophenoxy)-5-(2-methoxy-1-methylethoxy)benzoic acid | 3.15 g, 99% | FC=1C=C(OC=2C=C(C(=O)O)C=C(C2)OC(COC)C)C=C(C1)F | C17H16F2O5
